US05962458
A solution of 1 -methylbenzimidazole (2.5 g, 19 mmol), (J. Chem. Soc. 1929, 2820-2828), and paraformaldehyde (2 g) was heated at 165° C. for 30 minutes. Further paraformaldehyde (1 g) was added and heating continued for 2 hours. The mixture was allowed to cool and was purified by column chromatography eluting with methylene chloride, followed by methylene chloride/methanol (95/5) to give 2-hydroxymethyl-1-methylbenzimidazole (1.34 g, 45%).

reactant | 1 -methylbenzimidazole | 19 mmol, 2.5 g | CN1C=NC2=C1C=CC=C2 | C8H8N2
reactant | paraformaldehyde | 2 g | C=O | CH2O
reactant | paraformaldehyde | 1 g | C=O | CH2O
product | 2-hydroxymethyl-1-methylbenzimidazole | 1.34 g, 45% | OCC1=NC2=C(N1C)C=CC=C2 | C9H10N2O
